US06569851B1
Preparation of (S)-3-[(N′-((2-(2-Thiophene-yl)ethyl)aminocarbonyl)-L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one
Following General Procedure (5-A1) using 2-thiophene-yl isocyanate and 3-[(L-alaninyl)]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one, as described in Example 8-B above, the title compound was prepared. The molecular weight as determined by mass spectrometry (FD) was: (M+H).

reactant | 2-thiophene-yl isocyanate | S1C(=CC=C1)N=C=O | C5H3NOS
reactant | 3-[(L-alaninyl)]amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C19H20N4O2
product | (N′-((2-(2-Thiophene-yl)ethyl)aminocarbonyl)-L-alaninyl)amino-2,3-dihydro-1-methyl-5-phenyl-1H-1,4-benzodiazepin-2-one | S1C(=CC=C1)CCNC(=O)N[C@@H](C)C(=O)NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C26H27N5O3S
